US08609687B2
A suspension of 8-(3-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine (0.150 g, 0.625 mmol, 1 equiv), 4-bromo-2-methylpyridine (0.160 g, 0.935 mmol, 1.5 equiv), tris(dibenzylideneacetone)dipalladium (0) (27.5 mg, 0.03 mmol, 0.05 equiv), sodium tert-butoxide (0.90 g, 0.94 mmol, 1.5 equiv), and 2,2′-bis[di(3,5-xylyl)phosphino]-1,1′-binaphthyl (38.9 mg, 0.625 mmol, 0.1 equiv) in toluene (2 mL) was purged with nitrogen for 15 min. The reaction mixture was heated at 110° C. by microwave for 10 min. The reaction mixture was diluted with ethyl acetate (50 mL) and filtered through celite. The filtrate was then washed with brine (3×20 mL), dried over anhydrous sodium sulfate, filtered, and concentrated. Purification by preparative HPLC afforded 8-(3-methoxyphenyl)-N-(2-methylpyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine (80 mg, 39%). LCMS (ESI) m/z: 332.1; 1H NMR (400 MHz, DMSO-d6) δ: 10.45 (br s, 1 H), 8.81 (dd, J=6.4, 0.8 Hz, 1 H), 8.23 (d, J=6.0 Hz, 1 H), 7.88 (dd, J=6.8, 0.8 Hz, 1 H), 7.74 (s, 1 H), 7.64 (d, J=8.0 Hz, 1 H), 7.57 (s, 1 H), 7.54 (dd, J=6.0, 2.0 Hz, 1 H), 7.41 (t, J=8.0 Hz, 1 H), 7.15 (t, J=6.8 Hz, 1 H), 7.00 (dd, J=8.0, 2.4 Hz, 1 H), 3.83 (s, 3 H), 2.42 (s, 3 H).

reactant | 8-(3-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 0.625 mmol, 0.150 g, 1 equiv | COC=1C=C(C=CC1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O
reactant | 4-bromo-2-methylpyridine | 0.935 mmol, 0.160 g, 1.5 equiv | BrC1=CC(=NC=C1)C | C6H6BrN
reactant | sodium tert-butoxide | 0.94 mmol, 0.90 g, 1.5 equiv | CC(C)([O-])C.[Na+]
reactant | 2,2′-bis[di(3,5-xylyl)phosphino]-1,1′-binaphthyl | 0.625 mmol, 38.9 mg, 0.1 equiv | C1(=CC(=CC(=C1)C)C)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC(=CC(=C1)C)C)C1=CC(=CC(=C1)C)C)C1=CC(=CC(=C1)C)C | C52H48P2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.03 mmol, 27.5 mg, 0.05 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-(3-methoxyphenyl)-N-(2-methylpyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 80 mg, 39% | COC=1C=C(C=CC1)C=1C=2N(C=CC1)N=C(N2)NC2=CC(=NC=C2)C | C19H17N5O
